US07592358B2
32.1b. (6-bromo-4-methylquinolin-2-yl)methanol
Under a nitrogen atmosphere at 0C, 1.50 mL (1.50 mmol) of a lithium aluminum hydride solution (1M in THF) was slowly added to a solution of 0.65 g (2.32 mmol) of methyl 6-bromo-4-methylquinoline-2-carboxylate in 30 mL of THF and the mixture was stirred for 30 minutes at 0° C. A further 0.25 mL of lithium aluminum hydride solution (1M in THF) was added and the mixture was stirred for 20 minutes at 0° C. The reaction mixture was combined with a few drops of EtOAc, worked up using the Fieser-Fieser method, and the precipitate was filtered off and washed with EtOAc. The filtrate was evaporated down in vacuo. Yield: 0.25 g (43% of theoretical); C11H10BrNO (M=252.107); calc.: molpeak (M+H)+: 252/254 (Br); found: molpeak (M+H)+: 252/254 (Br); Rf value: 0.25 (silica gel, PE/EtOAc 3:2).

reactant | lithium aluminum hydride | 1.50 mmol, 1M, 1.50 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | methyl 6-bromo-4-methylquinoline-2-carboxylate | 2.32 mmol, 0.65 g | BrC=1C=C2C(=CC(=NC2=CC1)C(=O)OC)C | C12H10BrNO2
reactant | lithium aluminum hydride | 1M, 0.25 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
catalyst | EtOAc | a few drops | CCOC(=O)C | C4H8O2
product | (6-bromo-4-methylquinolin-2-yl)methanol | BrC=1C=C2C(=CC(=NC2=CC1)CO)C | C11H10BrNO
